US05641880
(S)-7-[(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,3,4,6,7,8,12b-octahydro-6-oxopyrido[2,1-a][2]benzazepine-4-carboxylic acid
Combine (S)-7-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,6,7,8,12b-hexahydro-6-oxopyrido[2,1-a][2]benzazepine (67 mg, 0.19 mmol) and sulfuric acid (2.0 mL, 95-98%) in a pressure vessel. Add 96% formic acid (400 μL) and quickly seal the vessel. After 18 hours, open the vessel cautiously and add ice-cold water (5 mL). Extract the reaction mixture repeatedly with chloroform. Combine the organic layers, dry over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 2/1/0.01 ethyl acetate/hexane/acetic acid to give the title compound.

reactant | (S)-7-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,6,7,8,12b-hexahydro-6-oxopyrido[2,1-a][2]benzazepine | 0.19 mmol, 67 mg | O=C1N(C(C2=CC=CC=C12)=O)[C@@H]1C(N2C(C3=C(C1)C=CC=C3)CCC=C2)=O | C22H18N2O3
reactant | sulfuric acid | 2.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | formic acid | 400 μL | C(=O)O | CH2O2
solvent | ethyl acetate hexane acetic acid | C(C)(=O)OCC.CCCCCC.C(C)(=O)O
product | (S)-7-[(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)]-1,2,3,4,6,7,8,12b-octahydro-6-oxopyrido[2,1-a][2]benzazepine-4-carboxylic acid | O=C1N(C(C2=CC=CC=C12)=O)C1C(N2C(C3=C(C1)C=CC=C3)CCC[C@H]2C(=O)O)=O | C23H20N2O5
